US04616086
Ethyl 4-(piperazin-1-yl)-phenylacetate
In analogous manner, with the use of n-butyl 4-aminophenylacetate, there is prepared n-butyl 4-(piperazin-1-yl)-phenylacetate; yield 52% of theory of sulphate; m.p. 197°-199° C.

reactant | n-butyl 4-aminophenylacetate | NC1=CC=C(C=C1)CC(=O)OCCCC | C12H17NO2
reactant | n-butyl 4-(piperazin-1-yl)-phenylacetate | N1(CCNCC1)C1=CC=C(C=C1)CC(=O)OCCCC | C16H24N2O2
reactant | sulphate | S(=O)(=O)([O-])[O-]
product | Ethyl 4-(piperazin-1-yl)-phenylacetate | N1(CCNCC1)C1=CC=C(C=C1)CC(=O)OCC | C14H20N2O2
